US06083908
To a solution of tert-butyl carbazate (10.0 g, 75.64 mmol) in 99% ethanol (100 ml) was added benzaldehyde (7.64 ml, 75.64 mmol) and the mixture was stirred for 60 min. The mixture was cooled to 0° C., filtered and the precipitate was washed with cold ethanol and dried to give 13.47 g (81%) of N'-benzylidenehydrazinecarboxylic acid tert-butylester as white crystals.

reactant | tert-butyl carbazate | 75.64 mmol, 10.0 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | benzaldehyde | 75.64 mmol, 7.64 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N'-benzylidenehydrazinecarboxylic acid tert-butylester | 13.47 g, 81% | C(C)(C)(C)OC(=O)NN=CC1=CC=CC=C1 | C12H16N2O2
